US06951870B2
(a) 7-Hydroxy-6-methoxy-8-nitro-3-phenyl-chromen-2-one
To a solution of 7-hydroxy-6-methoxy-3-phenyl-chromen-2-one (1.34 g) in acetone (40 ml) was added nitric acid (0.22 ml in 5 ml of CH2Cl2) and the resulting mixture stirred for 20 minutes. After evaporation of the solvents the product was recrystallized from ethanol. Yield: 0.85 g.

reactant | 7-hydroxy-6-methoxy-3-phenyl-chromen-2-one | 1.34 g | OC1=C(C=C2C=C(C(OC2=C1)=O)C1=CC=CC=C1)OC | C16H12O4
reactant | nitric acid | 0.22 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 7-Hydroxy-6-methoxy-8-nitro-3-phenyl-chromen-2-one | OC1=C(C=C2C=C(C(OC2=C1[N+](=O)[O-])=O)C1=CC=CC=C1)OC | C16H11NO6
